US06211199B1
Combine triazole (0.72 g, 10.4 mmol) and methylformamide (6 mL). Cool in an ice bath and add sodium hydride (0.42 g, 60% i oil, 10.4 mmol). After 30 minutes, warm to ambient temperature. Add a solution of methyl 2-methoxy-5-chloromethylbenzoate (1.85 g, 6.74 mmol) in dimethylformamide (6 mL). Heat to 75° C. After 3 hours, partition the reaction mixture between water and ethyl acetate. Extract the organic layer with water, dry over Na2SO4, filter, and concentrate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 95/5 dichloromethane/methanol containing 0.5% concentrated aqueous ammonia to give methyl 2-methoxy-5-(1H-triazol-1-ylmethyl)benzoate: Rf=0.1 (silica gel, 1/1 hexane/ethyl acetate).

reactant | triazole | 10.4 mmol, 0.72 g | N1N=NC=C1 | C2H3N3
reactant | methylformamide | 6 mL | CNC=O | C2H5NO
reactant | sodium hydride | 10.4 mmol, 0.42 g | [H-].[Na+]
reactant | methyl 2-methoxy-5-chloromethylbenzoate | 6.74 mmol, 1.85 g | COC1=C(C(=O)OC)C=C(C=C1)CCl | C10H11ClO3
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane methanol | ClCCl.CO
product | methyl 2-methoxy-5-(1H-triazol-1-ylmethyl)benzoate | COC1=C(C(=O)OC)C=C(C=C1)CN1N=NC=C1 | C12H13N3O3
